US08227622B2
Alternative Synthesis of [3-(4-Chlorophenylsulfanyl)-4-(hydroxyimino)-2-methyl-4,5,6,7-tetrahydro-1H-indol-1-yl]acetic acid
Aqueous sodium hydroxide (1M, 10 mL, 10 mmol) and water (20 mL) were added to a stirred suspension of ethyl [3-(4-chloro-phenylsulfanyl)-4-(hydroxyimino)-2-methyl-4,5,6,7-tetrahydro-1H-indol-1-yl]acetate (4.0 g, 10.2 mmol) and ethanol 40 mL) and the mixture was warmed up to 40° C. After 1.5 h at this temperature, the reaction mixture was allowed to cool to r.t. and held overnight. The suspension was reheated to 33° C. and acetic acid (1.7 mL, 29.7 mmol) added to the resulting solution. The mixture was allowed to cool to r.t., the solid product was collected by filtration, washed with water (2×20 mL), then dried under vacuum at 30° C. to provide the title compound as a solid; 2.94 g (79%); purity by HPLC 98.9 area %

reactant | sodium hydroxide | 10 mmol, 1M, 10 mL | [OH-].[Na+]
reactant | water | 20 mL | O | H2O
reactant | ethyl [3-(4-chloro-phenylsulfanyl)-4-(hydroxyimino)-2-methyl-4,5,6,7-tetrahydro-1H-indol-1-yl]acetate | 10.2 mmol, 4.0 g | ClC1=CC=C(C=C1)SC1=C(N(C=2CCCC(C12)=NO)CC(=O)OCC)C | C19H21ClN2O3S
reactant | acetic acid | 29.7 mmol, 1.7 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 40 mL | C(C)O | C2H6O
product | [3-(4-Chlorophenylsulfanyl)-4-(hydroxyimino)-2-methyl-4,5,6,7-tetrahydro-1H-indol-1-yl]acetic acid | ClC1=CC=C(C=C1)SC1=C(N(C=2CCCC(C12)=NO)CC(=O)O)C | C17H17ClN2O3S
